US07473705B2
40 mg (0.08 mmol) of rac 4-{2-phenyl-2-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenoxy]-ethoxy}-benzaldehyde in 2 mL of a mixture of THF/EtOH (1:1) were treated with 31 mg (0.8 mmol) of NaBH4 at 0° C. The mixture was stirred at room temperature, water and EtOAc were added, and the phases were separated. The inorganic phase was extracted with EtOAc, and the combined organic ones were washed with brine, dried (Na2SO4), filtered and evaporated. Column chromatography on ISOLUTE Flash NH2 with EtOAc yielded 24 mg (59%) of rac 1,1,1,3,3,3-hexafluoro-2-{4-[2-(4-hydroxymethyl-phenoxy)-1-phenyl-ethoxy]-phenyl}-propan-2-ol as a colorless oil, MS: 485 (M−H)−.

reactant | rac 4-{2-phenyl-2-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenoxy]-ethoxy}-benzaldehyde | 0.08 mmol, 40 mg | C1(=CC=CC=C1)C(COC1=CC=C(C=O)C=C1)OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C24H18F6O4
reactant | THF EtOH | C1CCOC1.CCO
reactant | NaBH4 | 0.8 mmol, 31 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | rac 1,1,1,3,3,3-hexafluoro-2-{4-[2-(4-hydroxymethyl-phenoxy)-1-phenyl-ethoxy]-phenyl}-propan-2-ol | 24 mg, 59% | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)OC(COC1=CC=C(C=C1)CO)C1=CC=CC=C1)(F)F | C24H20F6O4
